Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Racing heart and shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ with a recent L MCA stroke (___) and 
hypertension who presented with sudden onset of dyspnea and 
rapid heart rate. She was at home and felt suddenly dyspneic. 
She checked her BP and HR and found a BP of 180s/90s and HR in 
110s that climbed to 130-40s. She was brought in by EMS and 
received 10 of an unknown medication en route with a heart rate 
to the 110s.  
In the ED, patient was bolused 20 IV diltiazem with improvement 
in heart rate to ___ with acceptable pressure. She endorsed some 
but not complete improvement in her dyspnea at that time. She 
was p.o. loaded with 30 of diltiazem. On reevaluation, she had 
complete improvement in her symptoms, was sinus ___ with 
acceptable blood pressure.  
She is not sure if she has a history of afib but says she had a 
holter study in ___ in which she was told she may have had 
this rhythm. She does not remember feeling the way she felt 
during her most recent presentation of Afib at any prior time.
Regarding her CVA history, she had a large MCA stroke ___ in 
___. She thinks the stroke happened in her sleep, but when 
she woke up she couldn't dial the phone to her daughter. She was 
seen in vascular neurology clinic at ___ ___. Read of the 
MRI acquired in ___ showed a left parietal MCA stroke without 
evidence of hemorrhagic conversion. She was scheduled to undergo 
cardiac work up which she has not yet done.  
She has otherwise been feeling well without fevers, chills, 
nightsweats, dysuria, abd pain, n/v/d. She has noticed some 
increasing DOE with going up stairs. No CP or lightheadedness.
As of today, she is no longer experiencing dyspnea or 
palpitations.  
 
Past Medical History:
-Hypertension  
-Hyperlipidemia  
-Possible history of CAD vs ?CHF -- reports being told she had 
mild/borderline heart failure by her cardiologist in ___ but 
says she was told this was not true when she underwent a stress 
test at ___ a few years ago  
-R MCA stroke (___)  
-Peptic ulcer disease  

 
Social History:
___
Family History:
Father: ___ cancer, mother: pancreatic ca  
H/o colon cancer/liver cancers on the paternal side  
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Vitals:  T 97.5 - 98.0, BP 110-117/57-62, RR 20, 99% RA
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear, EOMI
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Ext: Warm, well perfused, 2+ pulses, Non-pitting edema
Neuro: CNs ___ intact. Upper and lower extremity strength 
intact. Cerebellar function wnl. 

DISCHARGE PHYSICAL EXAM: 
Vitals:  T 97.5-98.0, BP 111-152/60-69, HR 57-62, RR ___, 
96-99% on RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: Supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Ext: Warm, well perfused, 2+ pulses, Non-pitting edema
Neuro: CNs ___ intact. Upper and lower extremity strength 
intact. Cerebellar function wnl. 
 
Pertinent Results:
ADMISSION LABS: 
___ 02:53PM   ___ PTT-25.5 ___
___ 02:53PM   PLT COUNT-178
___ 02:53PM   NEUTS-54.8 ___ MONOS-12.4 EOS-0.7* 
BASOS-0.4 NUC RBCS-0.4* IM ___ AbsNeut-2.44 AbsLymp-1.40 
AbsMono-0.55 AbsEos-0.03* AbsBaso-0.02
___ 02:53PM   WBC-4.5 RBC-4.97 HGB-15.2 HCT-44.9 MCV-90 
MCH-30.6 MCHC-33.9 RDW-13.4 RDWSD-44.0
___ 02:53PM   D-DIMER-866*
___ 02:53PM   CALCIUM-9.6 PHOSPHATE-2.3* MAGNESIUM-1.9
___ 02:53PM   cTropnT-<0.01

PERTINENT INTERVAL LABS: 
___ 05:35AM BLOOD proBNP-422
___ 03:04PM BLOOD Lactate-2.3*
___ 01:55PM BLOOD Lactate-1.7

DISCHARGE LABS: 
___ 05:37AM BLOOD WBC-4.2 RBC-4.35 Hgb-13.2 Hct-40.1 MCV-92 
MCH-30.3 MCHC-32.9 RDW-13.4 RDWSD-45.8 Plt ___
___ 05:37AM BLOOD ___ PTT-31.5 ___
___ 05:37AM BLOOD Glucose-91 UreaN-21* Creat-0.9 Na-142 
K-4.2 Cl-105 HCO3-28 AnGap-13
___ 05:37AM BLOOD Calcium-9.0 Phos-4.0 Mg-1.9

IMAGING/STUDIES: 

ECG ___
Atrial fibrillation. Diffuse non-specific ST-T wave 
abnormalities. Compared to the previous tracing of ___, 
atrial fibrillation has replaced sinus rhythm.
 
CXR ___
AP portable upright view of the chest.   Overlying EKG leads are 
present. The lungs appear clear without focal consolidation, 
large effusion or  pneumothorax.  No signs of congestion or 
edema.  The cardiomediastinal  silhouette appears within normal 
limits.  Bony structures are intact. 
IMPRESSION:  As above. 

CTA CHEST ___. No pulmonary embolism or other acute process in the chest. 
2. Top-normal heart size. 

MICROBIOLOGY: 
UCx ___  MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
AND/OR GENITAL CONTAMINATION. 
 
Brief Hospital Course:
___ yo female with h/o L MCA stroke and hypertension who 
presented with DOE + rapid heart rate, found to be in Afib with 
RVR. Converted with 50 mg (20 IV, 30 PO) of diltiazem. The 
patient was transitioned to metoprolol for rate control and 
started on apixaban for anticoagulation. 

# Paroxysmal Atrial Fibrillation with RVR: Patient presented 
with DOE and palpitations, found on ECG to be in AF with RVR. 
The patient was thought to have a prior history of afib, given 
report of prior episodes of palpitations and tachycardia, noted 
prior to immigration to the ___. No e/o infection, anemia, 
obvious volume overload as trigger. Most likely secondary to 
hypertension. CHADS-Vasc 6, suggesting ~10% risk of stroke per 
year. Patient reverted to sinus rhythm with 20 mg IV diltiazem 
and 30 mg PO diltiazem. Patient was subsequently switched from 
home bisoprolol to metoprolol tartrate 12.5 mg BID, which was 
then transitioned to metoprolol succinate 25 mg QD PO. She was 
also started on apixaban 5 mg BID. The patient will follow up 
with cardiology as outpatient for TTE to rule out structural 
etiology of arrhythmia.

# Dyspnea: Patient reportedly dyspneic while in atrial 
fibrillation. Dyspnea thought to be most likely secondary to 
this arrhythmia as it resolved when the patient reverted to 
normal sinus rhythm. Pt did have a history of possible 
mild/borderline HF diagnosed in ___, which may have also 
contributed to her intolerance of rapid heart rate. Her BNP was 
not elevated and CXR was without evidence of pulmonary edema to 
suggest acute decompensation. There was a low index of suspicion 
for alternative etiologies, including CAD (as ECG unchanged and 
prior stress test at ___ was negative), PE or 
pulmonary process given negative CTA. 

# h/o CVA: Patient without neurologic deficits in house. 
Continued on rosuvastatin 5 mg qPM while in house. The patient's 
CVA may have occurred due to paroxysmal atrial fibrillation 
which was diagnosed on this admission. Her aspirin was 
discontinued as she was anticoagulated with apixaban as above 
(and her prior stroke was felt to be cardioembolic in etiology 
given afib).

# HTN: On bisoprolol at home but with some elevated BPs. Patient 
switched to metoprolol 12.5 mg BID PO while in house, which was 
then transitioned to metoprolol succinate 25 mg PO QD.

#PUD: Patient with history of gastric ulcers. Last EGD in ___ 
___ showed clean based, non-bleeding gastric ulcer. Patient 
continued on omeprazole while in house.

Transitional Issues: 
- TTE scheduled as outpatient to establish baseline and rule out 
structural cause of heart disease (previously followed by 
cardiologist in ___. 
- Consider repeat evaluation for CAD (prior stress test done at 
___ reportedly negative) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. bisoprolol fumarate 5 mg oral DAILY 
2. omega-3s-dha-epa-fish oil 1000 mg PO DAILY 
3. Rosuvastatin Calcium 5 mg PO QPM 
4. Vitamin D 1000 UNIT PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Vitamin B Complex 1 CAP PO DAILY 
7. Omeprazole 40 mg PO DAILY 
8. coenzyme Q10 unknown mg oral DAILY 
9. Aspirin EC 100 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth two times per 
day Disp #*60 Tablet Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
Take once a day. 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth every day 
Disp #*30 Tablet Refills:*0 
3.  coenzyme Q10 unknown  oral DAILY  
4.  Multivitamins 1 TAB PO DAILY  
5.  omega-3s-dha-epa-fish oil 1000 mg PO DAILY  
6.  Omeprazole 40 mg PO DAILY  
7.  Rosuvastatin Calcium 5 mg PO QPM  
8.  Vitamin B Complex 1 CAP PO DAILY  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses
===============
Atrial fibrillation

Secondary diagnoses
==================
Hypertension
Peptic ulcer disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ after you were found 
to have an abnormal heart rhythm called atrial fibrillation that 
was making your heart race and was causing you to be short of 
breath. After being treated with a heart medication, your heart 
rhythm went back to normal. While you were in the hospital, we 
switched your bisopropol to a similar medication called 
metoprolol, that you will take once a day from now on. This 
medication will control your heart rate as well as your blood 
pressure. We also started you on a blood thinner called Eliquis, 
which you will also take twice a day.

You should follow up with your primary care physician and your 
neurologist within a week of leaving the hospital.

It was a pleasure taking care of you!

Your ___ Team
 
Followup Instructions:
___